US07208506B2
nButyl lithium (1.6M in hexanes) (31.3 mL, 50 mmol) was added dropwise to N-(1,1,3,3-tetramethyl-butyl)-methanesulfonamide (5.23 g, 25 mmol) in tetrahydrofuran (30 mL) at −78° C. under an atmosphere of nitrogen. The mixture was warmed to 0° C. for 30 minutes then cooled to −78° C. 3-Pyridine carboxaldehyde (2.4 mL, 25 mmol) in tetrahydrofuran (20 mL) was added dropwise to the mixture over 20 minutes and the mixture was warmed to room temperature and stirred for a further 1 hour. Water (100 mL) was added to the reaction mixture and the whole was extracted with ethyl acetate (2×100 mL). The combined organics were dried over MgSO4, filtered and concentrated in vacuo to afford a pale yellow solid. The solid was washed with dichloromethane (10 mL) in heptane (100 mL) to afford 2-hydroxy-2-pyridin-3-yl-ethanesulfonic acid (1,1,3,3-tetramethyl-butyl)-amide as a pale yellow solid (5.67 g, 72%).

reactant | lithium | 50 mmol, 1.6M, 31.3 mL | [Li] | Li
reactant | N-(1,1,3,3-tetramethyl-butyl)-methanesulfonamide | 25 mmol, 5.23 g | CC(CC(C)(C)C)(C)NS(=O)(=O)C | C9H21NO2S
reactant | 3-Pyridine carboxaldehyde | 25 mmol, 2.4 mL | N1=CC(=CC=C1)C=O | C6H5NO
reactant | Water | 100 mL | O | H2O
solvent | tetrahydrofuran | 30 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
product | 2-hydroxy-2-pyridin-3-yl-ethanesulfonic acid (1,1,3,3-tetramethyl-butyl)-amide | 5.67 g, 72% | CC(CC(C)(C)C)(C)NS(=O)(=O)CC(C=1C=NC=CC1)O | C15H26N2O3S
